US09353085B2
Following the above procedure, Suzuki coupling of 6.7 g of 9-bromo-11-acetyl-11H-benzo[a]carbazole and 14.0 g of 4-(1-phenyl-1H-benzo [d]imidazol-2-yl) phenylboronic acid were stirred together in 30 ml of toluene. To this was added 0.02 g of tetrakis(triphenylphosphine)palladium, 6.9 g of potassium carbonate and 10 ml of aqueous ethanol were added and refluxed under nitrogen for 6 h. The reaction was quenched with water and the toluene layer was removed and passed through a celite column. The organic layers were combined and then evaporated in a rotary evaporator under vacuum to yield 9.5 g of 11-acetyl-3-[4-(1-phenyl-1H-benzo[d] imidazol-2-yl) phenyl]-11H-benzocarbazole as a white solid.

reactant | 9-bromo-11-acetyl-11H-benzo[a]carbazole | 6.7 g | BrC1=CC=C2C3=CC=C4C(=C3N(C2=C1)C(C)=O)C=CC=C4 | C18H12BrNO
reactant | 4-(1-phenyl-1H-benzo [d]imidazol-2-yl) phenylboronic acid | 14.0 g | C1(=CC=CC=C1)N1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)B(O)O | C19H15BN2O2
reactant | potassium carbonate | 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 11-acetyl-3-[4-(1-phenyl-1H-benzo[d] imidazol-2-yl) phenyl]-11H-benzocarbazole | 9.5 g | C(C)(=O)N1C=2C3=C(C=CC2C=2C=CC=CC12)C=C(C=C3)C3=CC=C(C=C3)C3=NC1=C(N3C3=CC=CC=C3)C=CC=C1 | C37H25N3O
